US05750531
Step 2: 6-Methyl-2-(2-methyl-4-fluorophenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.5 ml, 4.6 mmol) was added to a mixture solution of 6-methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-2-chloropyrimidine(0.7 g, 2.5 mmol) and dimethylformamide(10 ml), 0.45 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 4.6 mmol, 0.5 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 6-methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-2-chloropyrimidine | 2.5 mmol, 0.7 g | CC1=CC(=NC(=N1)Cl)N1C(C2=C(CC1)C=CS2)C | C13H14ClN3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-2-(2-methyl-4-fluorophenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride | 0.45 g, Yield: 44.4% | Cl.CC1=CC(=NC(=N1)NC1=C(C=C(C=C1)F)C)N1C(C2=C(CC1)C=CS2)C | InChI=1S/C20H21FN4S.ClH/c1-12-10-16(21)4-5-17(12)23-20-22-13(2)11-18(24-20)25-8-6-15-7-9-26-19(15)14(25)3;/h4-5,7,9-11,14H,6,8H2,1-3H3,(H,22,23,24);1H
